US08859773B2
To a solution of ethyl 1-tert-butyl-4-formyl-1H-pyrazole-3-carboxylate (2.87 g, 12.8 mmol) in ethanol (50 mL) was added sodium borohydride (0.97 g, 25.6 mmol) in one portion. After stirring for 30 minutes at room temperature the mixture was quenched with 1 N aqueous hydrochloric acid (100 mL), stirred for 15 minutes, and then neutralized with saturated aqueous sodium bicarbonate. The mixture was extracted with ethyl acetate (2×150 mL), the combined organics then dried over sodium sulfate, filtered and concentrated to yield ethyl 1-tert-butyl-4-(hydroxymethyl)-1H-pyrazole-3-carboxylate (2.57 g) as a clear oil. +APCI (M+Na) 249.2; 1H NMR (400 MHz, CDCl3, δ): 7.49 (s, 1H), 4.65 (d, J=6.8 Hz, 2H), 4.43 (q, J=7.2 Hz, 2H), 3.62 (t, J=6.9 Hz, 1H), 1.59 (s, 9H), 1.41 (t, J=7.1 Hz, 3H).

reactant | ethyl 1-tert-butyl-4-formyl-1H-pyrazole-3-carboxylate | 12.8 mmol, 2.87 g | C(C)(C)(C)N1N=C(C(=C1)C=O)C(=O)OCC | C11H16N2O3
reactant | sodium borohydride | 25.6 mmol, 0.97 g | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | ethyl 1-tert-butyl-4-(hydroxymethyl)-1H-pyrazole-3-carboxylate | 2.57 g | C(C)(C)(C)N1N=C(C(=C1)CO)C(=O)OCC | C11H18N2O3
